US06576656B1
1-(2-Diethylaminoethyl)-3-hydroxy-3-(2-benzothiazolyl)-4-bromooxindole
To benzothiazole (83.3 mg, 2.0 eq) in anhydrous THF (2 mL) under a nitrogen atmosphere and with stirring was added n-BuLi (0.40 mL, 2.0 eq, 1.53 M in hexanes) at −78° C. (bath temperature). The resulting bright yellow coloured reaction mixture was stirred for 1 hour after which 1-(2-diethylaminoethyl)-4-bromoisatin (100.0 mg, 3.08×10−4 mol) in anhydrous THF (2 mL) was added dropwise. The resulting red coloured solution was stirred at −78° C. for 7.5 hours. Saturated aqueous NH4Cl (1.5 mL) was added and the reaction mixture was allowed to warm to room temperature. The mixture was extracted with EtOAc and the combined extracts were dried (anhydrous Na2SO4). After filtration the solvent was removed in vacuo. Purification was carried out by column chromatography (silica gel, eluting 1% to 3% MeOH in CHCl3) to give the title compound as a light yellow solid (20.7 mg, 15%).

reactant | benzothiazole | 83.3 mg, 2.0 eq | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | n-BuLi | 1.53 M, 0.40 mL, 2.0 eq | [Li]CCCC
reactant | 1-(2-diethylaminoethyl)-4-bromoisatin | 3.08×10−4 mol, 100.0 mg | C(C)N(CCN1C(=O)C(=O)C2=C(C=CC=C12)Br)CC | C14H17BrN2O2
reactant | NH4Cl | 1.5 mL | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-Diethylaminoethyl)-3-hydroxy-3-(2-benzothiazolyl)-4-bromooxindole | 20.7 mg, 15% | C(C)N(CCN1C(C(C2=C(C=CC=C12)Br)(C=1SC2=C(N1)C=CC=C2)O)=O)CC | C21H22BrN3O2S
